US08252817B2
Benzophenone (4-methoxypyridin-2-yl)hydrazone
500 mg (3.48 mmol) 2-chloro-4-methoxypyridine, 752 mg (3.83 mmol) benzophenone hydrazone, 469 mg (4.88 mmol) sodium tert-butylate, 15.6 mg (0.07 mmol) palladium(II) acetate, 21.2 mg (0.17 mmol) phenylboronic acid and 43.4 mg (0.07 mmol) racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl are heated in degassed toluene at 90° C. overnight under argon. After cooling, the reaction mixture is poured into water, the aqueous phase is extracted several times with ethyl acetate and the combined organic phases are dried over sodium sulfate, filtered and concentrated. The residue is purified by means of preparative HPLC (RP18 column; mobile phase: acetonitrile/water gradient).

reactant | 2-chloro-4-methoxypyridine | 3.48 mmol, 500 mg | ClC1=NC=CC(=C1)OC | C6H6ClNO
reactant | benzophenone hydrazone | 3.83 mmol, 752 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | phenylboronic acid | 0.17 mmol, 21.2 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.07 mmol, 43.4 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.07 mmol, 15.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | Benzophenone (4-methoxypyridin-2-yl)hydrazone | COC1=CC(=NC=C1)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17N3O
